US07968720B2
5-Chloro-4-dimethoxymethyl-2-(3-methoxy-propyl)-pyridine
To a suspension of Mg (911 mg, 37.5 mmol) and iodine (one crystal) in dry THF (30 mL) was added dropwise 5% of the total amount of 1-bromo-3-methoxypropane (4.59 g, 30.0 mmol). The mixture was heated to reflux with the help of a heat gun until the Grignard-formation started. The rest of the 1-bromo-3-methoxypropane was added slowly, while an exothermic reaction proceeded. After the end of the addition, the reaction mixture was stirred under reflux for 20 min, and was allowed to cool to rt. This Grignard-sol. (1M in THF, 23.5 mL, 23.5 mmol) was added dropwise to a mixture of 2-bromo-5-chloro-4-dimethoxymethyl-pyridine (2.50 g, 9.38 mmol) and Ni(dppp)Cl2 (495 mg, 0.938 mmol) in THF (50 mL) at 0° C. The reaction mixture was stirred at rt for 30 min, and was then heated to reflux for 2 h. The mixture was allowed to cool to rt, and was dissolved with EtOAc. This mixture was washed with aq. sat. NaHCO3. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (heptane→EtOAc/heptane 1:1) yielded the title compound (1.51 g, 62%). LC-MS: tR=0.80 min; ES+: 260.15.

reactant | iodine | II | I2
reactant | 1-bromo-3-methoxypropane | 30.0 mmol, 4.59 g | BrCCCOC | C4H9BrO
reactant | 2-bromo-5-chloro-4-dimethoxymethyl-pyridine | 9.38 mmol, 2.50 g | BrC1=NC=C(C(=C1)C(OC)OC)Cl | C8H9BrClNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Ni(dppp)Cl2 | 0.938 mmol, 495 mg | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 5-Chloro-4-dimethoxymethyl-2-(3-methoxy-propyl)-pyridine | 1.51 g, 62% | ClC=1C(=CC(=NC1)CCCOC)C(OC)OC | C12H18ClNO3
